Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___
 
Chief Complaint:
fever, diarrhea
 
Major Surgical or Invasive Procedure:
ERCP ___
PICC placed ___
 
History of Present Illness:
PRIMARY ONCOLOGIST: ___
PRIMARY DIAGNOSIS: stage IV cholangiocarcinoma
TREATMENT REGIMEN: observation

CC: fever, nausea, vomiting, diarrhea

HISTORY OF PRESENTING ILLNESS:
___ with stage IV cholangiocarcinoma s/p palliative chemotherapy
in ___ now on observation with no evidence of recurrence as of
___ and history of recurrent cholangitis on suppressive
antibiotics who is admitted for management of fever, nausea,
vomiting and diarrhea.

He last saw his oncologist on ___. At that time he was doing
well and dealing with orthopedic issues. He continues on q6month
surveillance alternating MR and CT of the abdomen with CT of the
chest. He is nearing the five year mark where plans are to 
switch
to yearly imaging. His ___, which peaked at 1192 in ___,
was most recently 35 at this last visit. 

He was in his usual state of health until noon on the day of
admission when he developed diarrhea x 4, nausea and emesis. He
felt mild abdominal pain with diarrhea, but otherwise no
abdominal pain. He also noted frequent urination but no dysuria

On arrival to the ED, initial vitals were ___ 83 142/69 18 100%
RA
- labs notable for lactate of 2.9, unremarkable U/A, chem7
notable for HCO3 of 20, AST/ALT ___ with T. bili 0.6 and ALP
119, albumin 4.5, WBC 8.7 with 90%N, H/H ___ and plt 71, INR
1.2, PTT 27.2
- exam notable for ___ RUSB SEM, and non-tender/non-distended
abdomen
- the patient was given an LR bolus of 1L, meropenem 500 mg, 650
mg APAP and 4 mg Zofran
- blood and urine cultures were sent
- a RUQ U/S was ordered by not obtained

Prior to transfer vitals were T 102.2F 88 131/60 16 96% RA

On arrival to the floor, patient reports that while he has the
fever, nausea and vomiting consistent with past episodes of
cholangitis, he feels much less sick and does not have abdominal
pain. 

Patient denies night sweats, headache, vision changes,
dizziness/lightheadedness, weakness/numbnesss, shortness of
breath, cough, hemoptysis, chest pain, palpitations, abdominal
pain, hematemesis, hematochezia/melena, dysuria, hematuria, and
new rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
-___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
cdiff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___ completed CK. radiation and resume C5D1 Gem/Cis. Day
15 held due to low counts and post-hospitalization. 
- ___: admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: start of C6 with dose reduced gemcitabine to 800mg/m2
- ___: start of C7 with dose reduced gemcitabine to 
750mg/m2.
Also received on ___.
- ___: received last dose, C8D1
- ___ and ___: hospitalized for biliary sepsis s/p perc
chole tube
- ___: hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization
- ___ admit for ecoli bacteremia with stone/sludge
removal and on IV meropenem X 10 days; ___ admit with 
fever
and PTBD replaced
-  admitted from ___ to ___, with
replacement of his percutaneous biliary drain on ___ 
due
to fever.  None of his blood cultures returned positive during
that admission.
- visited ED with fevers, chills abdominal pain on ___ and
___. 
- admitted ___ - ___ with cholangitis, hospitalization
complicated by hemobilia during ERCP interrogation of L CBD.
Treated with 7d meropenem. Blood cultures negative throughout
hospitalization. MRCP obtained ___ showed no new soft tissue
masses.
- admitted ___ - ___ with cholangitis, ERCP deferred
given prior hemobilia. In the absence of an obvious 
target for decompression, ___ was not consulted for consideration 

of biliary drain replacement. Blood and urine cultures were
negative. After discussion with the infectious disease team, the
decision was made to treat for acute cholangitis with a 10d
course of meropenem 500mg q6h (___), followed by 
initiation
of suppressive doxycycline 100mg DAILY (for VRE) and bactrim DS 
1
tab daily.

PAST MEDICAL HISTORY:
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
Diabetes Mellitus diagnosed ___
Cholangiocarcinoma: treated with stenting and 
cisplatin/gemcitabine ___
 
Social History:
___
Family History:
His grandfather had a cancer of the bone. He has no other family 

history of malignancy.  Grandmother with cancer, unknown type ? 
colon, grandmother with diabetes.
 
Physical Exam:
PE:  Temp: 98.9 PO BP: 119/71 R Lying HR: 70 RR: 18
O2 sat: 97% O2 delivery: RA 
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear, MM dry
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds, no
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, ambulating in
hallways without assistance and w/o difficulty 
SKIN: No significant rashes.
 
Pertinent Results:
IMAGING: 
___ RUQ U/S
IMPRESSION: 
1. Coarsened liver with no focal lesions identified. 
2. Mild persistent biliary ductal dilatation 
3. Splenomegaly. 

___ CT chest w/ contrast
IMPRESSION:  
1.  No evidence of intrathoracic metastases. 
2.  Right thyroid nodule can be evaluated with dedicated thyroid
ultrasound if not already performed. 

___ CT abd/pelvis
IMPRESSION: 
1. Moderate left and mild right biliary ductal dilatation,
secondary to known intrahepatic cholangiocarcinoma, unchanged in
degree compared to prior MRCP from ___.  Right and
left common hepatic duct / common bile duct stents in 
appropriate
position.  Known intrahepatic cholangiocarcinoma is not
discretely visualized and unable to be measured.  No new hepatic
lesion. 
2. Diverticulosis is seen without evidence of acute
diverticulitis. 
3. Unchanged splenomegaly. 

 
Brief Hospital Course:
___ with stage IV cholangiocarcinoma now on observation and
history of recurrent cholangitis being treated w/ suppressive
antibiotics, p/w acute fevers, N/V/D, found to have e coli
bacteremia w/ MRI findings of cholangitis. 

# E. coli bacteremia with sepsis
Etiology most likely biliary as evident by MRI findings of
cholangitis. Consulted ERCP who is concerned about risk of
hemorrhage in light of prior complication so recommended holding
off for now but in light of rising LFTs, had ERCP on ___ which 
revealed 
e/o of copious sludge and stone fragments which was sweeped. 
THey
also found polyps which they will follow up as outpatient. 
-- ID recommended Meropenem 500 mg IV q6 (D1 = ___ for next 
two weeks
-- pt to f/u with ID in clinic 
-- f/u tetracycline and ertapenem sensitivities

# Pancytopenia
Trilineage cytopenia worsening since admission. Likely BM 
suppression in setting of acute bacteremia. DDx includes 
meropenem effect vs viral infection, however, both less
likely. CMV IGG +, IGM neg. 
-- f/u w/ ID next week

# Stage IV cholangiocarcinoma
S/p cis/gem palliative chemotherapy in ___, and fortunately 
seems to be quiescent as per imaging and ___.
-- f/u oncology as outpatient 

# hypophosphatemia: Repleted with IV given nausea
# BPH:  Continue finasteride and tamsulosin
# History of migraines: Continue atenolol prophylaxis
# Type II Diabetes Mellitus: not on antihyperglycemics
# GERD: Continue pantoprazole 
# Post nasal drip: cont home regimen

FEN: Regular 
ACCESS: PICC
CODE: Full Code, presumed
DISPO: Home w/ ___
>45 min spent coordinating care for discharge
______________
___, D.O.
Heme/Onc Hospitalist
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Clotrimazole Cream 1 Appl TP BID:PRN rash 
3. Dronabinol 5 mg PO QHS 
4. Finasteride 5 mg PO QPM 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Loratadine 10 mg PO QHS 
7. Multivitamins 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO QPM 
9. Tamsulosin 0.4 mg PO QHS 
10. Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral DAILY 
11. Doxycycline Hyclate 100 mg PO DAILY 
12. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
13. benzoyl peroxide 10 % topical DAILY 
14. Bifidobacterium infantis 4 mg oral DAILY 
15. glucosamine-chondroitin uncertain uncertain oral DAILY 
16. GuaiFENesin ER 600 mg PO QHS 
17. Psyllium Powder 1 PKT PO BID 
18. Biotene Dry Mouth Oral Rinse (saliva substitute combo no.9)  
  mucous membrane QHS 
19. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Ertapenem Sodium 1 g IV 1X daily Duration: 1 Dose 
DO NOT TAKE THIS MEDICATION UNLESS INSTRUCTED BY INFECTIOUS 
DISEASE DOCTOR 
RX *ertapenem [___] 1 gram 1 gram iv daily Disp #*10 Vial 
Refills:*0 
2.  Meropenem 500 mg IV Q6H 
RX *meropenem 500 mg 500 mg iv every six (6) hours Disp #*40 
Vial Refills:*1 
3.  TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 25 mg by mouth qhs prn Disp #*30 Tablet 
Refills:*0 
4.  ValACYclovir ___ mg PO BID 
Take 2 g every 12 hours for 1 day immediately when you feel a 
recurrence of your cold sore 
RX *valacyclovir [Valtrex] 1,000 mg 2 tablet(s) by mouth twice a 
day Disp #*12 Tablet Refills:*0 
5.  Vitamin D 400 UNIT PO DAILY  
6.  Atenolol 50 mg PO DAILY  
7.  benzoyl peroxide 10 % topical DAILY  
8.  Biotene Dry Mouth Oral Rinse (saliva substitute combo no.9)  
  mucous membrane QHS  
9.  Clotrimazole Cream 1 Appl TP BID:PRN rash  
10.  Dronabinol 5 mg PO QHS  
11.  Finasteride 5 mg PO QPM  
12.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
13.  glucosamine-chondroitin uncertain uncertain oral DAILY  
14.  GuaiFENesin ER 600 mg PO QHS  
15.  Loratadine 10 mg PO QHS  
16.  Multivitamins 1 TAB PO DAILY  
17.  Pantoprazole 40 mg PO QPM  
18.  Psyllium Powder 1 PKT PO BID  
19.  Tamsulosin 0.4 mg PO QHS  
20. HELD- Bifidobacterium infantis 4 mg oral DAILY  This 
medication was held. Do not restart Bifidobacterium infantis 
until you are told you can resume this by your infectious 
disease doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cholangitis
E Coli Bloodstream Infection 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr ___,

You were admitted because you were having fevers and diarrhea. 
You were seen by the ID team. You had a CT scan of your abdomen 
and an MRCP which revealed cholangitis. You had a PICC placed 
and started on Meropenem.

Your ID team will see you in clinic and help determine how long 
you will need to continue IV antibiotics. 

Your GI team will call you to arrange a follow up. Please call 
their office if you do not hear from them 

Your ___ team
 
Followup Instructions:
___